US06362195B1
B. N-t-Butylcarbonyl-6-(2-isopropoxy-4-oxiranylphenyl)-pyridin-2-ylamine
To a 100 mL round-bottomed flask equipped with condenser and N2 inlet were added 2.99 g (8.79 mmol) N-t-butylcarbonyl-6-(2-isopropoxy-4-formylphenyl)-pyridin-2-ylamine, 1.79 g (8.79 mmol) trimethylsulfonium iodide, 0.98 9 (17.59 mmol) powdered potassium hydroxide, 44 mL acetonitrile, and 0.5 mL water. The reaction was heated to 60° C. for 2.5 hours, then cooled, filtered, and evaporated. The yellow oil was used directly, 3.3 g (˜100%).

reactant | N-t-butylcarbonyl-6-(2-isopropoxy-4-formylphenyl)-pyridin-2-ylamine | 8.79 mmol, 2.99 g | C(C)(C)(C)C(=O)NC1=NC(=CC=C1)C1=C(C=C(C=C1)C=O)OC(C)C | C20H24N2O3
reactant | trimethylsulfonium iodide | 8.79 mmol, 1.79 g | [I-].C[S+](C)C
reactant | potassium hydroxide | [OH-].[K+]
reactant | acetonitrile | 44 mL | C(C)#N | C2H3N
solvent | water | 0.5 mL | O | H2O
product | N-t-Butylcarbonyl-6-(2-isopropoxy-4-oxiranylphenyl)-pyridin-2-ylamine | C(C)(C)(C)C(=O)NC1=NC(=CC=C1)C1=C(C=C(C=C1)C1OC1)OC(C)C | C21H26N2O3
